US06432974B1
3-(2-Amino-ethyl)-6-benzylpyrrolo[2,3-g]isoquinolin-5-one
A solution of 3-(2-Amino-ethyl)-6-benzyl-1,6,7,8-tetrahydro-pyrrolo[2,3-g]isoquinolin-5-one (1 mmole) and 2,3-dichloro-5,6-dicyanobenzoquinone (2 mmole) in chlorobenzene (15 mL) at reflux under nitrogen for 24 hours provides the titled compound as a yellow colored solid.

reactant | 3-(2-Amino-ethyl)-6-benzyl-1,6,7,8-tetrahydro-pyrrolo[2,3-g]isoquinolin-5-one | 1 mmole | NCCC1=CNC2=CC=3CCN(C(C3C=C21)=O)CC2=CC=CC=C2 | C20H21N3O
reactant | 2,3-dichloro-5,6-dicyanobenzoquinone | 2 mmole | ClC=1C(C(=C(C(C1Cl)=O)C#N)C#N)=O | C8Cl2N2O2
solvent | chlorobenzene | 15 mL | ClC1=CC=CC=C1 | C6H5Cl
product | 3-(2-Amino-ethyl)-6-benzylpyrrolo[2,3-g]isoquinolin-5-one | NCCC=1C=NC2=CC3=CCN(C(C3=CC21)=O)CC2=CC=CC=C2 | C20H19N3O
